US05439911
A 70% aqueous ethylamine solution (2.14 g, 33.23 mmol) was added to ethyl 4-(2(4-(2-methylsulfonyloxyethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.70 g, 1.66 mmol). The mixture was stirred at 100° C. for 2 hours in a sealed tube and cooled to room temperature. Then water (40 ml) was added to the reaction mixture. The mixture was extracted with methylene chloride and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with ethyl acetate/methanol (=8/2) to give the desired ethyl 4-(2-(4-(2-ethylaminoethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.40 g, 65%).

reactant | ethylamine | 33.23 mmol, 2.14 g | C(C)N | C2H7N
reactant | ethyl 4-(2(4-(2-methylsulfonyloxyethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 1.66 mmol, 0.70 g | CS(=O)(=O)OCCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C20H27N3O5S
solvent | water | 40 ml | O | H2O
product | ethyl 4-(2-(4-(2-ethylaminoethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 0.40 g, 65% | C(C)NCCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C21H30N4O2
